US07208140B2
b) 1,3,5-Triiodo-{2,4,6-tris[2-hydroxy-3-(1,4,7,10-tetraazacyclododecan-1-yl)propyloxy-methyl]}benzene
10 ml (75.28 mmol) of N,N-dimethylformamide dimethyl acetal is added to 10 g (58.05 mmol) of 1,4,7,10-tetraazacyclododecane, dissolved in 100 ml of toluene, and it is heated for 2 hours to 120° C. under nitrogen. In this case, a methanol/toluene azeotrope is distilled off continuously. Then, the reaction mixture is concentrated by evaporation at 70° C. in a vacuum, 13.6 g (19.1 mmol) of 1,3,5-triiodo-2,4,6-tris-(oxiranylmethoxymethyl)benzene is added, and it is heated under nitrogen for 24 hours to 110° C. After cooling to room temperature, it is mixed with 100 ml of 2N HCl and then heated for 12 hours to 80° C. It is evaporated to the dry state, mixed with 50 ml of ethanol and 50 ml of methanol and evaporated to the dry state again. The residue is dissolved in 100 ml of ethanol while being heated, and then slowly cooled to 0° C., whereby a white solid crystallizes out. The solid is filtered off, washed with ethanol and then dried at 50° C. in a vacuum. The solid is dissolved in 100 ml of water and 100 ml of dichloromethane, and 32% NaOH solution is added while being stirred vigorously until a pH of 10 is reached. The organic phase is separated, the aqueous phase is extracted three times with 100 ml each of dichloromethane, the combined organic phases are dried on magnesium sulfate and evaporated to the dry state.

reactant | N,N-dimethylformamide dimethyl acetal | 75.28 mmol, 10 ml | COC(N(C)C)OC | C5H13NO2
reactant | 1,4,7,10-tetraazacyclododecane | 58.05 mmol, 10 g | N1CCNCCNCCNCC1 | C8H20N4
reactant | 1,3,5-triiodo-2,4,6-tris-(oxiranylmethoxymethyl)benzene | 19.1 mmol, 13.6 g | IC1=C(C(=C(C(=C1COCC1OC1)I)COCC1OC1)I)COCC1OC1 | C18H21I3O6
reactant | HCl | 2N, 100 ml | Cl | ClH
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 1,3,5-Triiodo-{2,4,6-tris[2-hydroxy-3-(1,4,7,10-tetraazacyclododecan-1-yl)propyloxy-methyl]}benzene | IC1=C(C(=C(C(=C1COCC(CN1CCNCCNCCNCC1)O)I)COCC(CN1CCNCCNCCNCC1)O)I)COCC(CN1CCNCCNCCNCC1)O | C42H81I3N12O6
